US05698699
To a mixture of 2-amino-3',4,4',5-tetramethoxybenzophenone (6.6 g), ethyl 4-chloroacetoacetate (3.7 g) and acetic acid (60 ml) was added concentrated sulfuric acid (0.3 ml) and the mixture was stirred at 100° C. for 3 hours. The reaction mixture was then concentrated under reduced pressure and the residue was poured in water, made basic with 2N--NaOH, and extracted with chloroform. The chloroform layer was washed with water and dried (MgSO4) and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with chloroform-ethyl acetate (7:3, v/v) to give ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (53%). Recrystallization from acetone-ether provided colorless prisms, m.p. 147°-148° C.

reactant | 2-amino-3',4,4',5-tetramethoxybenzophenone | 6.6 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | ethyl 4-chloroacetoacetate | 3.7 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 53% | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
